US04946971
The starting material for this synthesis was 2,2,5,7,8-pentamethylchroman and 77.55 g, 0.38 mol was dissolved in trichloromethane (1 liter) and cooled to 0° C. Chlorosulphonic acid (176.85 g, 1.52 mol) in a further 800 ml of solvent was added and the mixture stirred for 15 minutes at 0° C. and then for a further hour without cooling. The reaction mixture was poured onto ice and the organic layer separated off. This organic layer was then washed with 5% sodium carbonate solution, with saturated sodium bicarbonate solution and with brine. The aqueous washings were combined and extracted with more solvent. The original organic layer and the organic extract were combined, dried over anhydrous magnesium sulphate, stirred with activated charcoal and filtered through kieselguhr. Most of the trichloromethane was removed in vacuuo and then petroleum ether (40/60° C.) was added and the remainder of the trichloromethane was removed in vacuo. This crude product was dissolved in more petroleum ether and the solution cooled to 0° C. and filtered to give 45.96 g of Pmc-Cl (yield 39.7%, melting point 77-82° C.).

reactant | 2,2,5,7,8-pentamethylchroman | CC1(OC2=C(C(=CC(=C2CC1)C)C)C)C | C14H20O
reactant | Chlorosulphonic acid | 1.52 mol, 176.85 g | ClS(=O)(=O)O | ClHO3S
solvent | trichloromethane | 1 liter | ClC(Cl)Cl | CHCl3
product | Pmc-Cl | 45.96 g, yield 39.7% | S(=O)(=O)(C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)Cl | C14H19ClO3S
